US04451283
2-Methyl-3-methylthio-6-(p-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine (1.0 g) was added in a solution of metallic sodium (0.1 g) in methanol (10 ml), and the resultant mixture was stirred at room temperature for 2 hours. After stirring, the resulting mixture was evaporated to dryness to give a crude product. Recrystallization of the crude product from acetone gave 0.8 g of 2-methyl-3-methoxy-6-(p-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine in 86% yield. M.P., 159° C.

reactant | 2-Methyl-3-methylthio-6-(p-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 1.0 g | CN1N=C(C(N=C1SC)=O)C1=CC=C(C=C1)C | C12H13N3OS
reactant | sodium | 0.1 g | [Na] | Na
reactant | methanol | 10 ml | CO | CH4O
product | 2-methyl-3-methoxy-6-(p-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 0.8 g, 86% yield | CN1N=C(C(N=C1OC)=O)C1=CC=C(C=C1)C | C12H13N3O2
